US06509328B1
3-[3-(1-Methyl-1H-imidazol-2-yl)-phenyl]-3-oxo-propionic Acid tert.-Butyl Ester
Prepared from ethyl 3-(1-methyl-1H-imidazol-2-yl)benzoate [CAS-No. 168422-44-4] by treatment with lithium tert.-butyl acetate according to general procedure H (method b). Obtained as a light yellow liquid (1.26 g).

reactant | ethyl 3-(1-methyl-1H-imidazol-2-yl)benzoate | CN1C(=NC=C1)C=1C=C(C(=O)OCC)C=CC1 | C13H14N2O2
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-[3-(1-Methyl-1H-imidazol-2-yl)-phenyl]-3-oxo-propionic Acid tert.-Butyl Ester | 1.26 g | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1N(C=CN1)C)=O | C17H20N2O3
